US04894386
A solution of sodium hypophosphite monohydrate (24.8 g) in water (40 ml) was added to a solution of methyl 4-(5-cyanoindol-3-ylmethyl)-3-methoxybenzoate (11.33 g) in acetic acid (40 ml) and pyridine (80 ml). Raney nickel (approximately 2.5 g) was added as an aqueous slurry, and the mixture was heated at 50°-55° for 3 hr (CAUTION: evolution of hydrogen!). Ethyl acetate (200 ml) was added to the cooled solution, the mixture was filtered through diatomaceous earth, the filter pad washed with ethyl acetate, the combined filtrate washed with 1M hydrochloric acid (4×200 ml, until the aqueous washings were acidic), water (2×100 ml) and brine, and dried (MgSO4). The solvent was evaporated to give an oil which was purified by flash chromatography, eluting with 3:6:1 hexane:methylene chloride:ethyl acetate, giving a foam which was crystallized from a mixture of ethyl acetate and hexane to give methyl 4-(5-formylindol-3-ylmethyl)-3-methoxybenzoate (9.85 g, 86%) as white crystals; mp 117°-120°; partial NMR (250 MHz, DMSO-d6): 3.83(s, 3H, OCH3); 3.94(s, 2H, ArCH2Ar'), 8.10(s, 1H, H4 -indole), 9.94(s, 1H, CHO), 11.45 (br s, 1H, H1 -indole).

reactant | sodium hypophosphite monohydrate | 24.8 g | O.[PH2](=O)[O-].[Na+]
reactant | methyl 4-(5-cyanoindol-3-ylmethyl)-3-methoxybenzoate | 11.33 g | C(#N)C=1C=C2C(=CNC2=CC1)CC1=C(C=C(C(=O)OC)C=C1)OC | C19H16N2O3
reactant | hydrogen | [H][H] | H2
reactant | Ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 40 ml | O | H2O
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
catalyst | Raney nickel | approximately 2.5 g | [Ni] | Ni
product | methyl 4-(5-formylindol-3-ylmethyl)-3-methoxybenzoate | 9.85 g, 86% | C(=O)C=1C=C2C(=CNC2=CC1)CC1=C(C=C(C(=O)OC)C=C1)OC | C19H17NO4
